US08258141B2
Isoxazole-5-carboxylic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-amide
This compound is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide (Intermediate JJ4) by replacing propionyl chloride with isoxazole-5-carbonyl chloride. (MH+ 560.28)

reactant | N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
reactant | isoxazole-5-carbonyl chloride | O1N=CC=C1C(=O)Cl | C4H2ClNO2
product | Isoxazole-5-carboxylic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-amide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)C1=CC=NO1)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26ClN7O4
